US07855194B2
Step 3: 2-(tert-Butyl-dimethyl-silanyloxy)-4-(tert-butyl-dimethyl-silanyloxymethyl)-1-fluoro-benzene
To a solution of 5-(tert-butyl-dimethyl-silanyloxymethyl)-2-fluoro-phenol (4.60 g, 17.9 mmol, 1.0 equiv) in anhydrous DMF (20 mL) at 0° C. under Ar was added imidazole (1.34 g, 19.7 mmol, 1.1 equiv) and tert-butyl-chloro-dimethyl-silane (2.97 g, 19.7 mmol, 1.1 equiv). After the addition was completed the cooling bath was removed and the reaction stirred for 18 h at rt. The reaction mixture was poured on ice, extracted with ethyl acetate (2×100 mL) and the combined organic phases washed with a sat. solution of sodium carbonate (2×100 mL) and sodium chloride (2×100 mL). The organic phase was dried over Na2SO4 and concentrated by evaporation under reduced pressure yielding 4.50 g (68%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 0.00 (s, 6H), 0.10 (s, 6H), 0.85 (s, 9H), 0.92 (s, 9H), 4.55 (s, 2H), 6.71-6.74 (m, 1H), 6.80-6.83 (m, 1H), 6.87-6.92 (m, 1H). MS (EI): 370.2 [M]+.

reactant | 5-(tert-butyl-dimethyl-silanyloxymethyl)-2-fluoro-phenol | 17.9 mmol, 4.60 g, 1.0 equiv | C(C)(C)(C)[SiH2]OC(C=1C=CC(=C(C1)O)F)(C)C | C13H21FO2Si
reactant | imidazole | 19.7 mmol, 1.34 g, 1.1 equiv | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-chloro-dimethyl-silane | 19.7 mmol, 2.97 g, 1.1 equiv | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(tert-Butyl-dimethyl-silanyloxy)-4-(tert-butyl-dimethyl-silanyloxymethyl)-1-fluoro-benzene | 4.50 g, 68% | C(C)(C)(C)[Si](OC1=C(C=CC(=C1)C(O[SiH2]C(C)(C)C)(C)C)F)(C)C | C19H35FO2Si2
